US09126998B2
rac-tert-Butyl (2-amino-3-ethoxypropyl)carbamate
4.88 g of rac-tert-butyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-ethoxypropyl]carbamate (14.0 mmol, 1 equivalent) were initially charged in 12 ml of 40% strength aqueous methylamine solution and reacted in a microwave at 100° C. for 1.5 h. The reaction mixture was concentrated, the residue was taken up in 10 ml of toluene and concentrated again. This step was repeated several times. The residue was then chromatographed on silica gel (mobile phase: dichloromethane/methanol 10:1). This gave 470 mg (15% of theory) of the title compound.

reactant | rac-tert-butyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-ethoxypropyl]carbamate | 14.0 mmol, 4.88 g, 1 equivalent | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OC(C)(C)C)=O)COCC | C18H24N2O5
reactant | methylamine | CN | CH5N
product | rac-tert-Butyl (2-amino-3-ethoxypropyl)carbamate | NC(CNC(OC(C)(C)C)=O)COCC | C10H22N2O3
